US05039820
Preparation of 1-benzoyl-4-(trifluoroacetyl)amino-6-ethoxycarbonyl-1,2,2a,3,4,5-hexahydrobenz[cd]indole
Into a 500-ml autoclave were added 1-benzoyl-4-(trifluoroacetyl)amino-6-bromo-1,2,2a,3,4, 5-hexahydrobenz[cd]indole (453 mg, 1 mmole) bis,(triphenylphosphine)palladium chloride (50 mg) triethylamine (0.5 ml) and ethanol (200 ml). The autoclave was purged three times to 60 psig (4.22 Kg per square cm) with carbon monoxide and then pressurized to 100 psig (7.03 Kg per square cm) at room temperature. The mixture was heated to 120° C. and maintained at temperature for about 2 hours during which time the pressure increased to about 140 psig (9.84 Kg per square cm). The vessel was cooled, vented and opened to provide a clear solution. High pressure liquid chromatography of the reaction mixture showed only starting material and no reaction products. The reaction mixture was returned to the autoclave. An additional 0.5 ml of triethylamine was added along with 50 mg of bis(triphenylphosphine)palladium chloride. The autoclave was vented three times with carbon monoxide, pressured to 100 psig (7.03 Kg per square cm) and heated to 145° C. The pressure increased to 160 psig (11.25 Kg per square cm). The reaction mixture was maintained at about 130° C. overnight after cooling. Analysis of the reaction mixture by high pressure liquid chromatography showed essentially all of the starting material remained with only minor peaks corresponding to other materials present.

reactant | 1-benzoyl-4-(trifluoroacetyl)amino-6-bromo-1,2,2a,3,4, 5-hexahydrobenz[cd]indole | 1 mmole, 0.5 ml, 453 mg | C(C1=CC=CC=C1)(=O)N1CC2C=3C(=C(C=CC13)Br)CC(C2)NC(C(F)(F)F)=O | C20H16BrF3N2O2
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | carbon monoxide | [C]=O | CO
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium chloride | 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-benzoyl-4-(trifluoroacetyl)amino-6-ethoxycarbonyl-1,2,2a,3,4,5-hexahydrobenz[cd]indole | C(C1=CC=CC=C1)(=O)N1CC2C=3C(=C(C=CC13)C(=O)OCC)CC(C2)NC(C(F)(F)F)=O | C23H21F3N2O4
